US09120820B2
Step 1: Preparation of tert-butyl (2-((6-amino-9H-purin-2-yl)amino)ethyl)carbamate (Compound 27A)
To a microwave tube containing 2-chloroadenosine (Aldrich Chemical) is added tert-butyl N-(2-aminoethyl)carbamate (AK Scientific, 10-fold molar excess). The mixture is heated in a microwave for 20 minutes at 120° C. under nitrogen. Workup of the reaction mixture, purification, and isolation of the title intermediate is carried out in a manner similar to that of Example 4, ROUTE 1, Step 3 used for Compound 16A.

reactant | 2-chloroadenosine | ClC=1N=C(C=2N=CN([C@H]3[C@H](O)[C@H](O)[C@@H](CO)O3)C2N1)N | C10H12ClN5O4
reactant | tert-butyl N-(2-aminoethyl)carbamate | NCCNC(OC(C)(C)C)=O | C7H16N2O2
product | tert-butyl (2-((6-amino-9H-purin-2-yl)amino)ethyl)carbamate | NC1=C2N=CNC2=NC(=N1)NCCNC(OC(C)(C)C)=O | C12H19N7O2
